US07405228B2
(S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-2-cyanoacetamide
The title compound was prepared as per Example-29 by using (S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine and cyanoacetic acid in 81% yield.

reactant | (S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | C(#N)C=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F)C | C18H21FN4O2
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
product | (S)-N-{3-[4-(4-cyanomethylidene-3-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-2-cyanoacetamide | 81% yield | C(#N)C=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(CC#N)=O)=O)F)C | C21H22FN5O3
